* D:\WORKSPACE\BSIM-Python-Implementation\model\Test.asc
* Generated by LTspice 24.1.9 for Windows.
R1 N002 VGS 7
R4 N001 VDS 0.35
VGS VGS 0 10 Rser=0
VDS VDS 0 100 Rser=0
X§U1 N001 N002 0 NC_01 NC_02 IAUT300N10S5N015 dVth=0 dRdson=0 dgfs=0 dC=0 dZth=0 Ls=1.5n Ld=1n Lg=3n
.dc VGS 0 10 1 VDS 0 100 5
* .inc OptiMOS_5_100V_LTspice.lib
.lib D:\WORKSPACE\BSIM-Python-Implementation\model\OptiMOS_5_100V_LTspice.lib
.backanno
.end
