* D:\WORKSPACE\BSIM-Python-Implementation\model\Test.asc
* Generated by LTspice 24.1.9 for Windows.
R1 N002 VGS 7
R4 N001 VDS 0.35
VGS VGS 0 10 Rser=0
VDS VDS 0 100 Rser=0
M1 N001 N002 0 0 NMOS
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Mohamed Gueni\AppData\Local\LTspice\lib\cmp\standard.mos
.dc VGS 0 10 2 VDS 0 100 10
.lib OptiMOS_5_100V_LTspice.lib
.backanno
.end
